US07163937B2
A sample of benzyl (1S,2R)-4-isopropoxy-2-(isopropylsulfonylmethyl)cyclohexylcarbamate (7.73 g, 18.8 mMol) and Pd/C (2 g) were taken in MeOH (250 mL) and stirred at rt under 50 psi hydrogen. After 2.5 h the reaction was filtered through Celite with EtOAc. The resulting solution was concentrated and dried in vacuo to yield (1S,2R)-4-isopropoxy-2-(isopropylsulfonylmethyl)cyclohexanamine as a clear oil which-was used without any further purification.

reactant | benzyl (1S,2R)-4-isopropoxy-2-(isopropylsulfonylmethyl)cyclohexylcarbamate | 18.8 mMol, 7.73 g | C(C)(C)OC1C[C@H]([C@H](CC1)NC(OCC1=CC=CC=C1)=O)CS(=O)(=O)C(C)C | C21H33NO5S
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 250 mL | CO | CH4O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | (1S,2R)-4-isopropoxy-2-(isopropylsulfonylmethyl)cyclohexanamine | C(C)(C)OC1C[C@H]([C@H](CC1)N)CS(=O)(=O)C(C)C | C13H27NO3S
